US05026714
Ethyl 4-(2-chlorophenyl)-1-ethyl-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate
50 mmol of ethyl 4-(2-chlorophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate are dissolved in tetrahydrofuran, and 50 mmol of lithium diisopropylamide followed by 50 mmol of ethyl iodide are added at -78° C. The mixture is heated to room temperature and stirred for 1 hour, and is worked up analogously to Example 1.

reactant | ethyl 4-(2-chlorophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate | 50 mmol | ClC1=C(C=CC=C1)C1C2=C(NC(=C1C(=O)OCC)C)COC2=O | C17H16ClNO4
reactant | lithium diisopropylamide | 50 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl iodide | 50 mmol | C(C)I | C2H5I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 4-(2-chlorophenyl)-1-ethyl-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro-[3,4-b]pyridine-3-carboxylate | ClC1=C(C=CC=C1)C1C2=C(N(C(=C1C(=O)OCC)C)CC)COC2=O | C19H20ClNO4
